US04225335
Preparation of N-(4-Ethyl-1,3-dioxolan-2-ylmethyl)-2-methoxy-α-chloroacetanilide
N-(4-Ethyl-1,3-dioxolan-2-ylmethyl)-2-methoxyaniline (0.25 mole), diethyl ether (30 ml), sodium carbonate (35.5 grams) and water (50 ml) are charged into a glass reaction vessel equipped with stirrer, thermometer and cooling means. The mixture is cooled to about 5° C. and chloroacetyl chloride (0.28 mole) is added dropwise with stirring. After the addition is completed, stirring is continued for 1 hour. After this time the organic phase is separated from the aqueous phase and is filtered. The filtrate is then washed with aqueous sodium carbonate, dried over anhydrous magnesium sulfate and filtered. The filtrate is then stripped of solvent under reduced pressure to yield the desired product N-(4-ethyl-1,3-dioxolan-2-ylmethyl)-2-methoxy-α-chloroacetanilide as the residue.

reactant | N-(4-Ethyl-1,3-dioxolan-2-ylmethyl)-2-methoxyaniline | 0.25 mole | C(C)C1OC(OC1)CNC1=C(C=CC=C1)OC | C13H19NO3
reactant | diethyl ether | 30 ml | C(C)OCC | C4H10O
reactant | sodium carbonate | 35.5 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloroacetyl chloride | 0.28 mole | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 50 ml | O | H2O
product | N-(4-ethyl-1,3-dioxolan-2-ylmethyl)-2-methoxy-α-chloroacetanilide | C(C)C1OC(OC1)CN(C1=CC=CC=C1)C(C(Cl)OC)=O | C15H20ClNO4
